US05166214
Preparation of N-[5-[4,5-bis(4-hydroxyphenyl)-1H-imidazol-2-ylthio]pentyl]-N'-(2,4-difluorophenyl)-N-heptylurea
To a stirred solution of N-[5-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]pentyl]-N'-(2,4-difluorophenyl)-N-heptylurea (0.78 g, 0.0012 mol) in methylene chloride (30 mL) cooled to -78° under a nitrogen atmosphere, 1M boron tribromide in methylene chloride (3.6 mL) was added. The reaction mixture stirred for 1 hour at 0°, was poured over ice (100 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layer was washed with 10% aqueous NaHCO3 (50 mL), water, brine, dried over magnesium sulfate, and concentrated in vacuo to give the crude oil. The product was purified by flash chromatography on silica gel (100 mL) eluting with hexane:ethyl acetate (40:60 v:v) to give a white foam, mp 110°-12° (0.5 g, 0.00008 mol). 1H NMR (DMSO-d6) δ12.22 (bs,1H), 9.55(bs,1H), 9.32(bs,1H),7.92(s,1H), 7.45-6.6(m,11H), 3.24(m,4H), 3.06(t,2H), 1.77-1.17(m,16H), 0.88(t,3H).

reactant | N-[5-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]pentyl]-N'-(2,4-difluorophenyl)-N-heptylurea | 0.0012 mol, 0.78 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SCCCCCN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC | C36H44F2N4O3S
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.6 mL | C(Cl)Cl | CH2Cl2
product | N-[5-[4,5-bis(4-hydroxyphenyl)-1H-imidazol-2-ylthio]pentyl]-N'-(2,4-difluorophenyl)-N-heptylurea | OC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)O)SCCCCCN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC | C34H40F2N4O3S
